US09353075B2
Step 6. Preparation of (1,1-dimethyl-5-phenyl-pentyl)-N-[(2R*,3R*)-2-isopropyl-4-oxo-oxetan-3-yl]-carbamate
Under nitrogen atmosphere, to a stirred mixture of (2R*,3R*)-2-[(1,1-dimethyl-5-phenyl-pentoxy)-carbonylamino]-3-hydroxy-4-methyl-pentanoic acid and (2R*,3S*)-2-[(1,1-dimethyl-5-phenyl-pentoxy)-carbonylamino]-3-hydroxy-4-methyl-pentanoic acid (0.11 g, 0.30 mmol) in dry CH2Cl2 (15 mL), at 0° C., Et3N (0.126 mL, 0.9 mmol) and subsequently TBTU (0.116 g, 0.36 mmol) were added. The mixture was left stirring at 0° C. for 1 h and at rt for 15 h. The organics were then removed under reduced pressure, and the resulting crude product purified by column chromatography, using a Teledyne ISCO apparatus, eluting with Cy:AcOEt (from 100:0 to 80:20) to afford the pure title compound (0.019 g, 18%), as pure anti diastereoisomer, as white solid. MS (ESI) m/z: 365 [M−NH4]+; (ESI) m/z: 346 [M−H]−. 1H NMR (DMSO-d6) δ 0.86 (d, J=6.66 Hz, 3H), 0.95 (d, J=6.54 Hz, 3H), 1.27-1.35 (m, 2H), 1.36 (s, 6H), 1.55 (p, J=7.56 Hz, 2H), 1.66-1.85 (m, 2H), 1.96 (dt, J=6.52, 8.91 Hz, 1H), 2.57 (t, J=7.71 Hz, 2H), 4.17 (dd, J=4.40, 9.09 Hz, 1H), 4.69 (dd, J=4.40, 8.33 Hz, 1H), 7.11-7.33 (m, 5H), 7.81 (d, J=8.32 Hz, 1H).

reactant | (2R*,3R*)-2-[(1,1-dimethyl-5-phenyl-pentoxy)-carbonylamino]-3-hydroxy-4-methyl-pentanoic acid | CC(CCCCC1=CC=CC=C1)(OC(=O)N[C@@H](C(=O)O)[C@@H](C(C)C)O)C | C20H31NO5
reactant | (2R*,3S*)-2-[(1,1-dimethyl-5-phenyl-pentoxy)-carbonylamino]-3-hydroxy-4-methyl-pentanoic acid | 0.30 mmol, 0.11 g | CC(CCCCC1=CC=CC=C1)(OC(=O)N[C@@H](C(=O)O)[C@H](C(C)C)O)C | C20H31NO5
reactant | Et3N | 0.9 mmol, 0.126 mL | CCN(CC)CC | C6H15N
reactant | TBTU | 0.36 mmol, 0.116 g | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.[B-](F)(F)(F)F
solvent | CH2Cl2 | 15 mL | C(Cl)Cl | CH2Cl2
product | (1,1-dimethyl-5-phenyl-pentyl)-N-[(2R*,3R*)-2-isopropyl-4-oxo-oxetan-3-yl]-carbamate | 0.019 g, 18% | CC(CCCCC1=CC=CC=C1)(C)OC(N[C@@H]1[C@H](OC1=O)C(C)C)=O | C20H29NO4
